US05563169
N-(2- Ethyl -6-methoxyphenyl)-2-(9H-xanthen-9-yl)acetamide
A solution of 258 mg (0.62 mmol) of N-(2-methoxy-6-vinylphenyl)-2-(9H-xanthen-9-yl)acetamide in 54 ml of tetrahydrofuran was vigorously stirred at room temperature for 10 hours in the presence of 20 mg of 10% palladium on charcoal in a stream of hydrogen. The reaction mixture was filtered with the aid of Celite and the catalyst was washed with tetrahydrofuran. The filtrate and the washings were combined and concentrated. The residue was recrystallized from a mixture of dichloromethane and hexane to give 99 mg (57%) of the title compound as crystals.

reactant | N-(2-methoxy-6-vinylphenyl)-2-(9H-xanthen-9-yl)acetamide | 0.62 mmol, 258 mg | COC1=C(C(=CC=C1)C=C)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C24H21NO3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 54 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | N-(2- Ethyl -6-methoxyphenyl)-2-(9H-xanthen-9-yl)acetamide | 99 mg, 57% | C(C)C1=C(C(=CC=C1)OC)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C24H23NO3
